datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[O-:10]C(CC)C(C)C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C(C)C(CC)[O:10]1 10=20;20,21=21"
"[O:10]([Na])C(C)C(O)C([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O+:10]([Na])C(C)C(O)C1[H] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])CC)CCCCCC)[H]>>CCCCCCN([C:20]1(OC(C([O:21]1)CC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[OH:10]C([H])C([H])C(C)C([H])[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C([H])C(C)C([H])C([H])[OH+:10]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[O:10][H].C[O+:21]=[C:20]([O]CC)[S]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21]C)([O]CC)[S]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)[H] 10=20;20,21=21"
"[OH:10]C(CCC)C(C)/C([H])=C(C)\[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)=C([H])C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C([H])C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(C)[O]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)CC)CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)[H])C)CC)[O-:10])CCCCCC 21=20;20,10=10"
"CC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC)C>>CC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[Cl-:21] 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C1=CC=CC=C1)[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)[H])C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)[H])C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[NH:10]([H])C(C)C(O)C([H])C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])C(O)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[NH][H].[Cl-]>>[Cl-].CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[NH][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])C)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C)[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
